US07312359B2
C-(6-Benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-methylamine (100 mg, 0.31 mmol) and 2-methylsulfanyl-4,5-dihydro-1H-imidazole hydroiodide (76 mg, 0.31 mmol) were added to 2 mL CH2Cl2, and the reaction mixture was heated to gentle reflux until all of the solvent was evaporated. The reaction mixture was heated to 150° C. for 30 minutes and then cooled. The crude mixture was basified by dropwise addition of aqueous NaOH solution, and then purified by preparative liquid chromatography (CH2Cl2/MeOH 90:10) on a short silica gel column. Removal of the solvent afforded 57 mg (47%) of (6-Benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl)-(4,5-dihydro-1H-imidazol-2-yl)-amine. MS: 370 (M+H)+.

reactant | C-(6-Benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-methylamine | 0.31 mmol, 100 mg | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CN | C17H19NO2S
reactant | 2-methylsulfanyl-4,5-dihydro-1H-imidazole hydroiodide | 0.31 mmol, 76 mg | I.CSC=1NCCN1
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (6-Benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl)-(4,5-dihydro-1H-imidazol-2-yl)-amine | 57 mg, 47% | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CNC=1NCCN1 | C20H23N3O2S
